US05057524
4-[Bis(4-fluorophenyl)hydroxymethyl]-N-methyl-1-piperidineacetamide
A mixture of 12.1 g (0.040 mole) of α,α-bis(4-fluorophenyl)-4-piperidinemethanol, 5.2 g (0.048 mole) of 2-chloro-N-methylacetamide, 17.0 g (0.160 mole) of anhydrous sodium carbonate and 0.4 g (0.002 mole) of potassium iodide in 100 mL of N,N-dimethylformamide was heated on a steam bath for 16 h. The mixture was poured into 1.5 L of water and extracted twice with 500 mL portions of ethyl acetate. The ethyl acetate layers were combined, washed with water and brine, dried (MgSO4), and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate to yield 14.2 g (95%) of white solid, mp 122°-124° C.

reactant | α,α-bis(4-fluorophenyl)-4-piperidinemethanol | 0.040 mole, 12.1 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 2-chloro-N-methylacetamide | 0.048 mole, 5.2 g | ClCC(=O)NC | C3H6ClNO
reactant | sodium carbonate | 0.160 mole, 17.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 1.5 L | O | H2O
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
catalyst | potassium iodide | 0.002 mole, 0.4 g | [I-].[K+]
product | 4-[Bis(4-fluorophenyl)hydroxymethyl]-N-methyl-1-piperidineacetamide | 14.2 g, 95% | FC1=CC=C(C=C1)C(C1CCN(CC1)CC(=O)NC)(O)C1=CC=C(C=C1)F | C21H24F2N2O2
